US07696215B2
Methyl 3-(6-bromo-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate (2 g), Cs2CO3 (4.4 g), racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.67 g), palladium acetate (0.12 g) in anhydrous toluene (20 ml) at ambient temperature was added N-boc piperazine (2.5 g). The mixture was heated to 100° C. and stirred for 16 hours. Inorganic solids were removed via a hot filtration and the filtrate concentrated to give an oil. The oil was resuspended in MeOH (16 ml), 4N HCl in dioxane (10 ml) was added and the reaction mixture stirred at 50° C. for 1 hour when additional 4N HCl in dioxane (2 ml) was added and heating continued for a further 30 minutes. The reaction mixture was cooled to room temperature and the solid collected by filteration, washed with ethyl acetate (×2) and ether and dried. The resultant solid was suspended in saturated K2CO3 solution and extracted with ethyl acetate (×5). The organic layers combined, dried (magnesium sulphate) and concentrated to yield methyl 4-methyl-3-(4-oxo-6-piperazin-1-ylquinazolin-3(4H)-yl)benzoate as a yellow foam (1.41 g); NMR Spectrum: (DMSOd6) 2.17 (s, 3H), 2.31 (m, 1H), 2.87 (m, 4H), 3.19 (m, 4H), 3.87 (s, 3H), 7.46 (s, 1H), 7.61 (m, 3H), 7.97 (s, 1H), 8.02 (d, 1H), 8.08 (s, 1H); Mass Spectrum: M+H+ 379.

reactant | Methyl 3-(6-bromo-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate | 2 g | BrC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)OC)C=CC1C)=O | C17H13BrN2O3
reactant | Cs2CO3 | 4.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.67 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | N-boc piperazine | 2.5 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | HCl | 4N | Cl | ClH
reactant | HCl | 4N | Cl | ClH
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 16 ml | CO | CH4O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.12 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 4-methyl-3-(4-oxo-6-piperazin-1-ylquinazolin-3(4H)-yl)benzoate | 1.41 g | CC1=C(C=C(C(=O)OC)C=C1)N1C=NC2=CC=C(C=C2C1=O)N1CCNCC1 | C21H22N4O3
